US08492372B2
N-{[5-FLUORO-7-(METHYLSULFONYL)-4H-1,3-BENZODIOXIN-2-YL]METHYL}-2-METHOXYETHANAMINE
Preparation according to Example 34 using 2-(bromomethyl)-5-fluoro-7-(methylsulfonyl)-4H-1,3-benzodioxine (8.5 mg, 0.026 mmol), 2-methyoxyethanamine (0.50 ml) and EtOH (3 ml). MS m/z (rel. intensity, 70 eV) 319 (M+, 0.3), 141 (17), 88 (bp), 72 (29), 58 (12), 56 (16).

reactant | 2-(bromomethyl)-5-fluoro-7-(methylsulfonyl)-4H-1,3-benzodioxine | 0.026 mmol, 8.5 mg | BrCC1OCC2=C(O1)C=C(C=C2F)S(=O)(=O)C | C10H10BrFO4S
reactant | 2-methyoxyethanamine | 0.50 ml | COCCN | C3H9NO
solvent | EtOH | 3 ml | CCO | C2H6O
product | N-{[5-FLUORO-7-(METHYLSULFONYL)-4H-1,3-BENZODIOXIN-2-YL]METHYL}-2-METHOXYETHANAMINE | FC1=CC(=CC=2OC(OCC21)CNCCOC)S(=O)(=O)C | C13H18FNO5S
